US07517875B2
After dissolving 4-methylamino-3-nitrobenzoic acid methyl ester (540 mg, 2.5 mmol) in ethyl acetate-methanol (2:1) (20 ml), 10% palladium-carbon powder (5 mol %) was added thereto under a nitrogen atmosphere. The mixture was stirred for 4 hours under a hydrogen atmosphere, and then the reaction mixture was filtered through celite. The filtrate was concentrated under reduced pressure to obtain 3-amino-4-methylaminobenzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-methylamino-3-nitrobenzoic acid methyl ester | 2.5 mmol, 540 mg | COC(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O | C9H10N2O4
solvent | ethyl acetate methanol | 20 ml | C(C)(=O)OCC.CO
solvent | palladium-carbon | [C].[Pd]
product | 3-amino-4-methylaminobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC)N)=O | C9H12N2O2
